US07728025B2
(Step 8) Production of N-(4-((2R,5S)-1-acetyl-5-methylpyrrolidin-2-yl)-5-fluoro-2-nitrophenyl)pyrazine-2-carboxamide
1 ml of fuming nitric acid was added to 59 mg of N-(4-((5S)-1-acetyl-5-methylpyrrolidin-2-yl)-3-fluorophenyl)pyrazine-2-carboxamide at room temperature, and the reaction liquid was stirred at the same temperature for 30 minutes. The reaction liquid was diluted with chloroform, washed with aqueous saturated sodium bicarbonate, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduce pressure, and purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), ethyl acetate) to obtain the entitled compound as a pale yellow oily substance. (Rf: trans form>cis form.)

reactant | nitric acid | 1 ml | [N+](=O)(O)[O-] | HNO3
reactant | N-(4-((5S)-1-acetyl-5-methylpyrrolidin-2-yl)-3-fluorophenyl)pyrazine-2-carboxamide | 59 mg | C(C)(=O)N1C(CC[C@@H]1C)C1=C(C=C(C=C1)NC(=O)C1=NC=CN=C1)F | C18H19FN4O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(4-((2R,5S)-1-acetyl-5-methylpyrrolidin-2-yl)-5-fluoro-2-nitrophenyl)pyrazine-2-carboxamide | C(C)(=O)N1[C@H](CC[C@@H]1C)C1=CC(=C(C=C1F)NC(=O)C1=NC=CN=C1)[N+](=O)[O-] | C18H18FN5O4
